US04053468
6-Oxopenicillanic Acid Benzyl Ester
A solution of 3.06 g. (10 mmol.) of 6-aminopenicillanic acid benzyl ester and 2.20 g. (10 mmol.) of 3,5-di-t-butyl-1,2-benzoquinone in 50 ml. of tetrahydrofuran containing 5 g. of 5A molecular sieves is maintained at 4° for 16 hours. The solution is decanted and treated with 3 g. of oxalic acid in 10 ml. of water. After standing at 4° for 6 hours most of the solvent is removed below ambient temperature and the residue is partitioned between benzene and water. The aqueous phase is extracted with additional benzene and the combined organic phases are dried (MgSO4) and evaporated to dryness to give a residue which is chromatographed on silica gel with benzene-ethyl acetate as eluant to give the title compound.

reactant | 6-aminopenicillanic acid benzyl ester | 10 mmol | CC1([C@@H](N2[C@H](S1)C(C2=O)N)C(=O)OCC3=CC=CC=C3)C | C15H18N2O3S
reactant | 3,5-di-t-butyl-1,2-benzoquinone | 10 mmol | C(C)(C)(C)C=1C(C(C=C(C1)C(C)(C)C)=O)=O | C14H20O2
solvent | tetrahydrofuran | 5 g | O1CCCC1 | C4H8O
product | 6-Oxopenicillanic Acid Benzyl Ester | CC1([C@@H](N2[C@H](S1)C(=O)C2=O)C(=O)OCC3=CC=CC=C3)C | C15H15NO4S
